US08580841B2
Step D: Preparation of 4-(Chloromethyl)-1-(cyclopropylmethoxy)-2-(trifluoromethyl)benzene.
To a solution of (4-(cyclopropylmethoxy)-3-(trifluoromethyl)phenyl)methanol (0.258 g, 1.454 mmol) in toluene (4 mL) was added thionyl chloride (0.637 mL, 8.72 mmol). The reaction was stirred at 75° C. for 1.5 h. The reaction mixture was poured into ice water and extracted with hexanes (twice). The combined extracts were washed with NaHCO3 (thrice), dried over MgSO4 and concentrated to give the title compound as a white solid (0.275 g). 1H NMR (400 MHz, CDCl3) δ ppm 0.36-0.43 (m, 2H), 0.59-0.67 (m, 2H), 1.21-1.34 (m, 1H), 3.95 (d, J=6.44 Hz, 2H), 4.56 (s, 2H), 6.95 (d, J=8.59 Hz, 1H), 7.48 (dd, J=8.53, 2.34 Hz, 1H), 7.58 (d, J=2.15 Hz, 1H).

reactant | (4-(cyclopropylmethoxy)-3-(trifluoromethyl)phenyl)methanol | 1.454 mmol, 0.258 g | C1(CC1)COC1=C(C=C(C=C1)CO)C(F)(F)F | C12H13F3O2
reactant | thionyl chloride | 8.72 mmol, 0.637 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(Chloromethyl)-1-(cyclopropylmethoxy)-2-(trifluoromethyl)benzene | 0.275 g | ClCC1=CC(=C(C=C1)OCC1CC1)C(F)(F)F | C12H12ClF3O
